US09227985B2
7-(3,5-Dimethylisoxazol-4-yl)-2-oxo-4-phenyl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazine-9-carbonitrile
9-Bromo-7-(3,5-dimethylisoxazol-4-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one (6.9 mg, 0.016 mmol), zinc cyanide (19 mg, 0.16 mmol) and tetrakis(triphenylphosphine)palladium(0) (2.8 mg, 0.0024 mmol) were dissolved in DMF (1.6 mL) and the solution was deoxygenated. The stirred reaction mixture was heated at 150° C. in a microwave for 5 min. The mixture was diluted with MeOH and purified by preparative LCMS using pH 10 buffer to give the title compound. LCMS calc. for C21H17N4O3 (M+H)+: m/z=373.1. found: 373.2.

reactant | 9-Bromo-7-(3,5-dimethylisoxazol-4-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 0.016 mmol, 6.9 mg | BrC=1C=C(C2=C3N(C(CO2)C2=CC=CC=C2)C(NC13)=O)C=1C(=NOC1C)C | C20H16BrN3O3
reactant | DMF | 1.6 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
catalyst | zinc cyanide | 0.16 mmol, 19 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0024 mmol, 2.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(3,5-Dimethylisoxazol-4-yl)-2-oxo-4-phenyl-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazine-9-carbonitrile | CC1=NOC(=C1C1=CC(=C2C=3N(C(COC31)C3=CC=CC=C3)C(N2)=O)C#N)C | C21H16N4O3
